Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
low urine output
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ F with h/o DM (diet controlled), HTN, Fibromyalgoa, 
depression and anxiety.  
.
1 day history of low urine output. Reports no voiding at all 
from 10pm ___ to 10 AM on day of admission. Has not felt any 
lower abdominal pressure or pain or sensation of fullness untill 
this morning when had sudden urgency and finaly voided a small 
amount of urine. Felt some sensation of residual post voiding. 
Has had at least 3 liters to drink over past 24 hours. Denies 
any flank or abdoiminal pain. No frequency, urgency or burning 
except as above. Mentions some nausea yesterday and gaging but 
without frank vomiting.  
Mentions 4 epidodes of large volume watery diarrhea on ___ w/o 
blood or mucous, w/o fever or other complaints. Says had enough 
to drink with this and complaint resolved completely with 1 
immodium. 
Started on Strattera (atomoxetine an NE reuptake inhibitor) 2.5 
weeks ago for anxiety/depression this was stopped the day prior 
to admission d/t concern of urinary retention. Also reports 
taking PO morphine on ___ after not having taken any for the 
previous two weeks (has standing prescription for this). Has 
used Ibuprofen 800mg twice daily every two days for her chronic 
pain alternating it with acetaminophen. This is not changed from 
her usual NSAID consumption.
Denies any febrile ilness, throat or skin infection recently. 
.
In the ED, initial vs were:: VS triage  98.0 98 151/84 18 100. 
bladder scan - 194ml
renal US: normal
Labs: Cr = 2.5 BUN = 39 from 1.5 and 16 respectively on ___ 
(1.6 ___ 1.2 ___ 11.8 with 82% 
neutrophils. 
She was sent to the floor for further investigation. 
 
Past Medical History:
Past Medical History:  
.
# Depression
# Fibromyalgia/chronic fatigue syndrome - suffers from chronic 
excessive fatigue + chronic pains and aches mainly back limbs 
and abdominal. followed by rheumatology.  Had GI assessment in 
___ including colonoscopy with biopsies which were normal and 
CT abdomen + pelvis which was normal except for gallbladder 
stones. Uses Morphine MS 100 mg twice per week on average. 
# OSA - has CPAP but rarely uses it. 
# lacunar infarct (right internal capsule) - discovered 
incidentally on head CT done for ___. 
# borderline DM - diet treated. Last HbA1c ___ = 6.1
# HTN - well controlled on atenolol and dizothiazide
# nephrolithiasis
# cholelithiasis
# Raynaud's phenomenon
# sickle cell trait
# primary hyperparathyroidism ? ___ PTH = 144 Ca = 9.8. 
Followed by endocrinologist but has not yet been investigated. 
# osteoperosis - s/p left foot and right wrist fractures

 
Social History:
___
Family History:
father - DM

 
Physical ___:
On admission: 

Vitals: T:98.8 BP:135/84 P:88 R:18 O2:99%RA
.  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, DRY MUCOUS MEMBRANE, oropharynx clear  
Neck: supple, JVP not elevated, no LAD.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, soft ___ systolic 
murmur max in RSB, no rubs, gallops  
Abdomen: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly. RLQ TENDERNESS  - 
CHRONIC no peritoneal signs. No flank or bladder tenderness. 
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. 
Back: THORACIC KIPHOSIS
NEURO: A+OX3, CNII-XII normal, good motor function and 
sensorium, DTR ++ bilateral. No abnormal reflexes.  

on discharge: essentially unchanged except for MMM. 
 
Pertinent Results:
On admission: 
___  BLOOD WBC-11.8*# RBC-4.57 Hgb-13.5 Hct-40.9 MCV-90
                       MCH-29.6 MCHC-33.0 RDW-13.3 Plt ___
___  BLOOD Glucose-121* UreaN-39* Creat-2.7*# Na-135 K-3.6 
                       Cl-94* HCO3-25 AnGap-20

___  URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG 
                       Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 
Leuks-NEG
___  URINE RBC-0 ___ Bacteri-OCC Yeast-NONE ___  URINE Hours-RANDOM UreaN-428 Creat-76 Na-34 K-37 Cl-36

FeNA = 0.9%

On discharge:
___  BLOOD WBC-7.0 RBC-3.50* Hgb-10.4*# Hct-31.1* MCV-89
                MCH-29.8 MCHC-33.5 RDW-13.5 Plt ___
___  BLOOD Glucose-125* UreaN-32* Creat-1.8* Na-144 K-3.9 
                Cl-110* HCO3-27 AnGap-11

___ RENAL ULTRASOUND: The right kidney measures 9.1 cm and 
the left kidney measures 9.3 cm. There is no evidence of 
hydronephrosis, stones, or masses.  The spleen is normal, 
measuring 8.1 cm. No perinephric fluid collection is noted. This 
study was performed with a partially full bladder, which is 
unremarkable. 
IMPRESSION: Normal renal ultrasound without evidence of 
hydronephrosis. 

 
Brief Hospital Course:
___ F with h/o DM (diet controlled), HTN, Fibromyalgoa, 
depression and anxiety admitted with acute on chronic renal 
failure and self-reported low urine output with history of 
recently resolved diarrhea. 
.
per problem:
.
# acute on chronic renal failure:
Creatinin was 2.5 on admission from baseline of 1.5 two days 
prior. Ms. ___ chronic renal failure is most probably 
secondary to HTN. Diabetes is less likely to be the culprit as 
it is border-line and well controlled with diet. 
The current episode of acute renal failure was consistent with 
pre-renal failure secondary to dehydration, probably due to 
relatively low fluid intake in the setting of recently resolved 
diarrhea. This was supported by dry mucous membranes on exam and 
FeNa = 0.89% on admission. Ms. ___ was held 
and she was treated with IVF rehydration with subsequent good 
urine output and downtrending of creatinin to 1.8. 
There was initially some concern about possible urinary 
retention perhaps due to  
combination of atomoxetine cymbalta and morphine but Ms. 
___ did not have significant post void residuals on 
bladder scans and her US study did not demonstrate any 
hydronephrosis. Nevertheless, in light of the temporal proximity 
to initiation of Atomoxetine (2 weeks prior) the latter was held 
in case of some post-renal contribution to this largely ___ 
presentation.     
.
# Anemia: Ms. ___ dropped from 40.9 on admission to 
31.1 the following day. This was paralleled by a drop in WBC and 
PLT. This was most likely secondary to the former readings 
representing hemoconcentration secondary to dehydration. Current 
Hct probably represents her real Hct value. Ms. ___ 
normocytic anemia is most likely due to chronic renal failure, 
but iron and vitamin deficiencies should be ruled out in the 
outpatient setting.  
.
# ECG abnormalities -  negative T wave III and AVF, we had no 
prior EKG for comparison.  There was no clinical concern for 
acute ischemia and Ms. ___ reports no chronic symptoms 
suggestive of chronic angina or heart failure. In light of her 
risk factors these non specific EKG findings may be further 
investigated by stress testing in the outpatient setting. 
.
.
.
Ms. ___ was discharged in good general condition and will 
follow up her renal function and other active medical issues 
with her PCP.  
 
Medications on Admission:
Medications:  
. 
Alendronate 70 mg Tablet 1 Tablet(s) by mouth per week 
.
Atenolol 25 mg Tablet 1 Tablet(s) by mouth once a day 
.  
Duloxetine [Cymbalta] 30 mg Capsule, Delayed Release(E.C.) 
3 Capsule(s) by mouth po qd 
.
Hydrochlorothiazide 25 mg Tablet 1 Tablet(s) by mouth once a day 

.
Lidocaine 5 % (700 mg/patch) Adhesive Patch, Medicated 
one to skin 12 hours on; 12 hours off as needed for pain - uses 
it twice amonth on average
.
Morphine [MS ___ 30 mg Tablet Sustained Release 1 Tablet(s) 
by mouth once a day as needed for pain
.      
Omeprazole 40 mg Capsule, Delayed Release(E.C.) 1 Capsule(s) by 
mouth once a day 
.
Aspirin 81 mg Tablet 1 Tablet(s) by mouth once a day
.
Ergocalciferol (Vitamin D2) [Vitamin D] 4,000 unit Capsule 
1 Capsule(s) by mouth once a day 
.

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO once a day.  
4. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day: start on ___.  
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) patch Topical once a day as needed for pain: leave on 
for 12 hours then take off.  
6. MS ___ 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day as needed for pain.  
7. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
8. Ergocalciferol (VIT D2) ___ units Capsule, 1 Capsule by 
mouth omce a day
9. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dehydration
Acute on Chronic Renal Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted because of complaints of low urine output from 
a couple of days prior to your admission. You were found to be 
dehydrated which resulted in decreased function of your kidneys. 
You may have been dehydrated due to a recent episode of diarrhea 
and having relatively little to drink. You were treated with 
intavenous fluids and consequently had good urine output and 
your kidney functions were much improved. 
You should continue to have plenty to drink and follow closely 
with your PCP who needs to continue to monitor your kidney 
functions. 

We have held the following medication:
1. Straterra (Atomoxetine)- you should consult with your PCP 
before restarting this medication. 
2. Hydrochlorothiazide - you should restart this medication the 
morning after your discharge. 

As discussed please limit your Ibuprofen use as this can hurt 
your kidneys. 
 
Followup Instructions:
___